Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Strawberry / Shellfish Derived / Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Jaundice, fever
 
Major Surgical or Invasive Procedure:
ERCP with stent deployment.

 
History of Present Illness:
Mr. ___ is a ___ yo man with known metastatic colon cancer 
most recently on capecitabine 1 week ago, tranferred from OSH 
with jaundice and evidence of billiary obstruction on imaging.  
Mr. ___ was diagnosed with colon cancer in ___ s/p resection 
and it seems that he received FOLFOX and Avastin per his report, 
suggesting that he had metastatic disease.  He then progressed 
with liver mets and has had repeated problems with biliary 
obstruction, undergoing stent placement at ___ in ___ and 
repeat ERCP andremoval of sludge from stent in ___.  Over the 
past few days he noticed darkening of his urine jaundice and had 
a fever of 103 at home yesterday along with shaking chills.  He 
presented t his local ED where a CT scan was performed and per 
report showed mild intrahepatic dilitation. T bili there was 
10.7 and WBC 15.  He was given a dose of zosyn 3.375 grams IV 
and transferred her for ERCP.

On arrival in the ED T 99  BP 129/64 HR 84  RR 20  O2 sats 99% 
on RA. The ERCP fellow was contacted and per ED report is 
planning to per an ERCP in the AM.

Currently, Mr. ___ reports that he is not in pain.  He denies 
nausea, vomiting, diarrhea, constipation, abdominal pain.

ROS: Denies HA, visual changes, difficultly swallowing, nausea, 
vomiting, difficult urinating, cough, SOB, CP, hemoptysis, 
hematemesis, BRBPR, ___ edema, weakness, numbness, tingling, 
night sweats.  He has had some fatigue.

 
Past Medical History:
Metastatic colon cancer diagnosed he believes in ___ s/p 
resection followed by what sounds like FOLFOX and AVASTIN, but 
he is not sure.  Last chemo capecitabine 1 week ago.
Hypothyroidism
HTN
Diabetes, diet controlled

 
Social History:
___
Family History:
No cancers in family. Father died in ___ of unknown cause. 
Mother died of old age at ___.
 
Physical Exam:
ADMISSION EXAM:
Vitals: T 99.3 BP 107/61 HR 66 RR 20 O2 sats 100 5 on RA
Pain: ___
General: Jaundiced appearing older gentelman in NAD
HEENT: + scleral icterus and jaunduce under toniue, MM somewhat 
dry
Neck: Without masses or thyromegaly
CV: RR, nl S1S2 no m/g/r
Pulm: CTA bilaterally
Abd:obese, soft, NT/ND, liver palpated about 3 cm below costal 
margin
Ext: trace ___ edema bilaterally
Neuro: AAOx3
Skin: Hyperpigmented area on head which is reportedly a birth 
mark. No other rashes
 
Pertinent Results:
___ 08:25PM BLOOD WBC-9.1 RBC-3.46* Hgb-12.5* Hct-37.5* 
MCV-108* MCH-36.2* MCHC-33.5 RDW-18.1* Plt ___
___ 08:25PM BLOOD Neuts-90.2* Lymphs-5.9* Monos-2.8 Eos-0.6 
Baso-0.5
___ 08:25PM BLOOD Plt ___
___ 08:25PM BLOOD ___ PTT-24.6 ___
___ 08:25PM BLOOD Glucose-108* UreaN-52* Creat-2.2* Na-136 
K-5.3* Cl-105 HCO3-21* AnGap-15
___ 08:25PM BLOOD ALT-174* AST-143* LD(LDH)-172 AlkPhos-128 
TotBili-8.7*
___ 08:25PM BLOOD Lipase-104*
___ 08:25PM BLOOD cTropnT-<0.01

CT abd/pelvis report per OSH:  Mild intrahepatic ductal 
dilitation.

___ 11:00AM BLOOD WBC-3.7* RBC-3.45* Hgb-12.4* Hct-36.7* 
MCV-107* MCH-35.8* MCHC-33.6 RDW-16.3* Plt ___
___ 11:00AM BLOOD Glucose-154* UreaN-28* Creat-1.7* Na-132* 
K-3.8 Cl-102 HCO3-20* AnGap-14
___ 11:00AM BLOOD ALT-78* AST-44* AlkPhos-147* TotBili-2.4*
___ 11:00AM BLOOD Calcium-9.2 Phos-2.0* Mg-1.4*
 
Brief Hospital Course:
___ yo man with metatstatic colon cancer with mets to liver s/p 
biliary stents admitted with recurrent biliary obstruction and 
cholangitis.

# Biliary obstruction: s/p repeat ERCP with successful stent 
placement and drainage.  Bilirubin declining appropriately.

# Cholangitis:
- Fevers resolved with pip/tazo.  Will discharge on 
amoxicillin/clavulanate to complete 14 days total.
- Blood cultures from ___, where he was 
transfered from, were still negative after 48hrs.

# Renal failure: Likely prerenal in nature.  Slowly improving 
with hydration.  Monitor Ins/Outs.

# Hyperkalemia: Resolved.

# Hypothyroidism: Continue levothyroxine.

# HTN: Hold atenolol and quinaretic for now given infection and 
BP on low side.  His primary care physician ___ need to restart 
these at a later date.

# Pancytopenia: Likely secondary to chemotherapy capecitabine. 
Will monitor.

# PPX: SC heparin

# Code: DNR/DNI per patient. Wife is HCP.

# Dispo: Discharge to home on PO abx.
 
Medications on Admission:
Atenolol 50 mg po Qday
Ibuprofen 200 mg po Q6H PRN
Quinaretic 20mg-12.5 mg 1 tablet po BID
Synthroid ___ mcg Po Qday
Tyelnol PRN
 
Discharge Medications:
1. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever/pain: You should call your physician 
if you have a fever.  
3. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 13 days.
Disp:*26 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Biliary obstruction.
2. Cholangitis.
3. Metastatic colon cancer to the liver.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You developed recurrent bile duct obstruction and cholangitis 
(infection of the bile ducts) possibly due to metastatic colon 
cancer.  You went for repeat ERCP, during which a new stent was 
inserted since the old one had moved out of position.  Your 
bilirubin then improved, but you still had a fever.  This 
resolved with continued antibiotics.  You will need to complete 
a course of antibiotics and follow-up with your primary care 
physician and oncologist.  Because of low blood pressure and the 
infection, your blood pressure medication was stopped.  Your 
primary care physician ___ advise you when to restart them.
 
Followup Instructions:
___